US09388161B2
Step 3. (S)-cyclopropyl(2-methyl-5-phenoxy-6-(4-(piperazin-1-yl)-1H-pyrazol-1-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone
A mixture of (S)-(6-(4-amino-1H-pyrazol-1-yl)-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.020 g, 0.05 mmol), bis(2-bromoethyl)amine (0.020 g, 0.09 mmol), sodium iodide (0.003 g, 0.02 mmol), and cesium carbonate (0.084 g, 0.26 mmol) in acetonitrile (2 mL) stirred overnight at 85° C. The reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated under vacuum, and the residue was purified by preparative thin layer chromatography (eluting with 10% methanol/dichloromethane). The product was further purified by preparative-HPLC with the following conditions: Column: XBridge RP C18, 19×150 mm, 5 um; Mobile Phase: water (0.05% ammonium bicarbonate) and acetonitrile (5% to 60% acetonitrile in 7.0 min, flow rate: 20 mL/min); Detector: UV220&254 nm. This afforded (5)-cyclopropyl(2-methyl-5-phenoxy-6-(4-(piperazin-1-yl)-1H-pyrazol-1-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone (0.0011 g, 5%) as a light yellow solid. 1H NMR (300 MHz, CD3OD) δ ppm 0.96-0.82 (m, 1H), 0.91-1.06 (m, 2H), 1.15-1.22 (m, 3H), 1.31-1.38 (m, 2H), 1.42-1.51 (m, 1H), 1.95-2.07 (m, 1H), 2.21-2.32 (m, 1H), 2.33-2.45 (m, 1H), 2.73-2.92 (m, 9H), 4.55-4.65 (m, 1H), 6.71-6.79 (m, 2H), 6.93-7.01 (m, 1H), 7.19-7.26 (m, 2H), 7.40 (s, 1H), 7.45-7.50 (m, 1H), 7.54-7.63 (m, 2H). MS (ESI, pos. ion) m/z 458 [M+H]+.

reactant | (S)-(6-(4-amino-1H-pyrazol-1-yl)-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 0.05 mmol, 0.020 g | NC=1C=NN(C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1=CC=CC=C1 | C23H24N4O2
reactant | bis(2-bromoethyl)amine | 0.09 mmol, 0.020 g | BrCCNCCBr | C4H9Br2N
reactant | sodium iodide | 0.02 mmol, 0.003 g | [I-].[Na+]
reactant | cesium carbonate | 0.26 mmol, 0.084 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (S)-cyclopropyl(2-methyl-5-phenoxy-6-(4-(piperazin-1-yl)-1H-pyrazol-1-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)N1N=CC(=C1)N1CCNCC1)OC1=CC=CC=C1)C | C27H31N5O2
